US06828460B2
3-(2,4-Dihydroxyphenyl)-2-cyclohexen-1-one Oxime
3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one oxime (0.1 g) was heated to 50° C. in methanol (5 ml) containing acidic ion exchange resin (0.3 g). After 4 hr, the mixture was filtered and the resin was washed with ammonia solution (50 ml). Filtrate and washings were combined, evaporated in vacuo and purified by flash column chromatography (SiO2, ethyl acetate/petroleum ether, 3:2, v/v) to furnish the title compound as a yellow solid (0.058 g, 81%). δH (DMSO) (mixture of stereoisomers) 1.68 (2H, m, major), 1.76 (2H, m, minor), 2.26 (2H, m, minor), 2.40-2.54 (4H major+2H minor, overlapping m), 6.15-6.30 (3H major+2H minor, overlapping m), 6.85-6.95 (1H major+2H minor, overlapping m), 9.26 (1H, bs, major), 9.32 (1H, bs, minor), 9.35 (1H, bs, major), 9.40 (1H, bs, minor), 10.17 (1H, s, minor), 10.49(1H, s, major); m/z (ES−) 437 (2M−H)−.

reactant | 3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one oxime | 0.1 g | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CCC1)=NO | C16H21NO5
solvent | methanol | 5 ml | CO | CH4O
product | 3-(2,4-Dihydroxyphenyl)-2-cyclohexen-1-one Oxime | 0.058 g, 81% | OC1=C(C=CC(=C1)O)C1=CC(CCC1)=NO | C12H13NO3
